US06605620B1
Synthesis of 4-[N-(4-Bromophenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-(tert-butoxycarbonyl)piperidine
4-(4-Bromophenyl)amino-1-(tert-butoxycarbonyl)piperidine (711 mg) and 3-(3,4,5-trimethoxyphenyl)benzyl chloride (586 mg) was treated in the same manner as described in Example 9 to give light yellow amorphous of the title compound.

reactant | 4-(4-Bromophenyl)amino-1-(tert-butoxycarbonyl)piperidine | 711 mg | BrC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H23BrN2O2
reactant | 3-(3,4,5-trimethoxyphenyl)benzyl chloride | 586 mg | COC=1C=C(C=C(C1OC)OC)C=1C=C(CCl)C=CC1 | C16H17ClO3
product | 4-[N-(4-Bromophenyl)-N-[3-(3,4,5-trimethoxyphenyl)benzyl]amino]-1-(tert-butoxycarbonyl)piperidine | BrC1=CC=C(C=C1)N(CC1=CC(=CC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)C(=O)OC(C)(C)C | C32H39BrN2O5
